US08648069B2
2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)acetamide
A suspension of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (2.00 g, 10.3 mmol), 2-bromoacetamide (2.14 g, 15.5 mmol), and potassium carbonate (2.14 g, 15.5 mmol) in acetone (60 mL) was heated at about 50° C. for about 3.5 days. The reaction mixture was then cooled to ambient temperature, filtered through diatomaceous earth, while washing with additional acetone, and then concentrated under reduced pressure. The crude material was then dissolved in a minimal amount of dichloromethane and purified via silica gel chromatography eluting with a gradient of 80-100% ethyl acetate in heptane to afford the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.88 (s, 1H), 7.57 (s, 1H), 7.46 (s, 1H), 7.24 (s, 1H), 4.77 (s, 2H), 1.26 (s, 12H). MS (ESI+) m/z 252.2 (M+H)+.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 10.3 mmol, 2.00 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | 2-bromoacetamide | 15.5 mmol, 2.14 g | BrCC(=O)N | C2H4BrNO
reactant | potassium carbonate | 15.5 mmol, 2.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)acetamide | CC1(OB(OC1(C)C)C=1C=NN(C1)CC(=O)N)C | C11H18BN3O3
